US04046770
N-(6-benzoyloxybenzothiazol-2-yl)-N'-phenylurea
Two and eight tenths grams (0.01 mole) of N-(6-hydroxybenzothiazol-2-yl)-N'-phenylurea were dissolved in 25 ml. of pyridine. Two and three-tenths grams (0.01 mole) of benzoic anhydride were added and the mixture was stirred for 12 hours. The mixture was poured over ice. The precipitated product was filtered, washed with water and ethyl ether and dried. The yield was 2.3 g. (59 percent) of N-(6-benzoyloxybenzothiazol-2-yl)-N'-phenylurea, m.p. 245°-249° C.

reactant | N-(6-hydroxybenzothiazol-2-yl)-N'-phenylurea | 0.01 mole | OC1=CC2=C(N=C(S2)NC(=O)NC2=CC=CC=C2)C=C1 | C14H11N3O2S
reactant | benzoic anhydride | 0.01 mole | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(6-benzoyloxybenzothiazol-2-yl)-N'-phenylurea | C(C1=CC=CC=C1)(=O)OC1=CC2=C(N=C(S2)NC(=O)NC2=CC=CC=C2)C=C1 | C21H15N3O3S
